US07968538B2
t-Butyl 4-(3-(1-(3-chlorophenyl)ethylamino)-4-nitrophenyl)piperazine-1-carboxylate
N-(1-(3-Chlorophenyl)ethyl)-5-fluoro-2-nitrobenzenamine (522 mg, 1.8 mmol), t-butyl piperazine-1-carboxylate (329 mg, 1.8 mmol), N,N-diisopropylethylamine (457 mg, 3.5 mmol) were stirred at 90° C. in dry acetonitrile (50 mL) for 24 h. The solvent was evaporated and the residue was dissolved in dichloromethane and washed with water. The dichloromethane was evaporated and the crude compound was purified by silica chromatography using 25% ethyl acetate in hexanes to afford the title compound (95 mg, 12% yield). 1H NMR (400 MHz, CDCl3): δ 8.70 (s, 1H), 8.06 (d, 1H), 7.33-7.21 (m, 4H), 6.15 (d, 1H), 5.58 (s, 1H), 4.53 (m, 1H), 3.43 (m, 4H), 3.21 (m, 2H), 3.13 (m, 2H), 1.63 (d, 3H), 1.46 (s, 9H); MS (ESI) m/z: Calculated for C23H29ClN4O4: 460.19; Observed: 483.3 (M++Na).

reactant | N-(1-(3-Chlorophenyl)ethyl)-5-fluoro-2-nitrobenzenamine | 1.8 mmol, 522 mg | ClC=1C=C(C=CC1)C(C)NC1=C(C=CC(=C1)F)[N+](=O)[O-] | C14H12ClFN2O2
reactant | t-butyl piperazine-1-carboxylate | 1.8 mmol, 329 mg | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | N,N-diisopropylethylamine | 3.5 mmol, 457 mg | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | t-Butyl 4-(3-(1-(3-chlorophenyl)ethylamino)-4-nitrophenyl)piperazine-1-carboxylate | 95 mg, 12% yield | ClC=1C=C(C=CC1)C(C)NC=1C=C(C=CC1[N+](=O)[O-])N1CCN(CC1)C(=O)OC(C)(C)C | C23H29ClN4O4
